US07166648B2
3-{4-Acetyl-4-[2-(ethoxycarbonyl)ethyl]-5-oxohexanoyloxy}-2,2-dimethylpropyl ethyl 4,4-diacetylheptane-1,7-dioate
5.0 g of 4-acetyl-5-oxohexanoic acid ethyl ester and five drops 1,8-diazabicyclo-[5.4.0]-undec-7-ene were mixed and 2.6 g of neopentyl glycol diacrylate was added dropwise. The mixture was stirred for three hours to yield a highly viscous colorless oil. Gel permeation chromatography showed a main peak at 690 g/mol, nuclear magnetic resonance spectra and infrared spectrum are according to the expected structure.

reactant | 4-acetyl-5-oxohexanoic acid ethyl ester | 5.0 g | C(C)OC(CCC(C(C)=O)C(C)=O)=O | C10H16O4
reactant | neopentyl glycol diacrylate | 2.6 g | C(C=C)(=O)OCC(C)(COC(C=C)=O)C | C11H16O4
catalyst | 1,8-diazabicyclo-[5.4.0]-undec-7-ene | five drops | N12CCCCCC2=NCCC1 | C9H16N2
product | 3-{4-Acetyl-4-[2-(ethoxycarbonyl)ethyl]-5-oxohexanoyloxy}-2,2-dimethylpropyl ethyl 4,4-diacetylheptane-1,7-dioate | C(C)(=O)C(CCC(=O)OCC(COC(CCC(C(C)=O)(CCC(=O)OCC)C(C)=O)=O)(C)C)(CCC(=O)OCC)C(C)=O | C31H48O12
